US06455520B1
N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide
Using an analogous procedure to that described in Example 3, a mixture of N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-chloropyridine-4-carboxamide (0.5 g) and morpholine (5 ml) was stirred and heated to 110° C. for 16 hours. The resultant solution was cooled to ambient temperature and poured into water and extracted with methylene chloride. The organic phase was evaporated and the residue was purified by column chromatography on an isolute SCX ion exchange column using a 99:1 mixture of methanol and a saturated aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound (0.023 g); Mass Spectrum: M+H+529.

reactant | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-chloropyridine-4-carboxamide | 0.5 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)Cl)C=CC1 | C26H28ClN5O2
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide | 0.023 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)N2CCOCC2)C=CC1 | C30H36N6O3
